US07829707B2
(d) 1-[2-{[tert-Butyl(dimethyl)silyl]oxy}-2-(4-methoxyphenyl)ethyl]-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one
The title compound (0.07 g, 90%) was prepared in accordance with general method B using 3-{[2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-methoxyphenyl)ethyl]amino}-1H-pyrrole-2-carboxylic acid ethyl ester (0.13 g, 0.31 mmol) and ethoxycarbonyl isothiocyanate (0.042 mL, 0.37 mmol).

reactant | 3-{[2-{[tert-butyl(dimethyl)silyl]oxy}-2-(4-methoxyphenyl)ethyl]amino}-1H-pyrrole-2-carboxylic acid ethyl ester | 0.31 mmol, 0.13 g | C(C)OC(=O)C=1NC=CC1NCC(C1=CC=C(C=C1)OC)O[Si](C)(C)C(C)(C)C | C22H34N2O4Si
reactant | ethoxycarbonyl isothiocyanate | 0.37 mmol, 0.042 mL | C(C)OC(=O)N=C=S | C4H5NO2S
product | 1-[2-{[tert-Butyl(dimethyl)silyl]oxy}-2-(4-methoxyphenyl)ethyl]-2-thioxo-1,2,3,5-tetrahydro-pyrrolo[3,2-d]pyrimidin-4-one | 0.07 g, 90% | [Si](C)(C)(C(C)(C)C)OC(CN1C(NC(C2=C1C=CN2)=O)=S)C2=CC=C(C=C2)OC | C21H29N3O3SSi
